US05256675
A mixture of 2-acetylamino-5-(3-hydroxypyridin-2-ylthio)thiazole (2 g) in a mixture of ethanol (40 ml), tetrahydrofuran (20 ml) and aqueous 6N-hydrochloric acid (13 ml) was refluxed for 5 hours with stirring. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in water. The solution was adjusted to pH 8.5 using aqueous sodium bicarbonate and extracted with a mixture of tetrahydrofuran and ethyl acetate (1:1). The organic layer was washed with aqueous saturated sodium chloride and dried over magnesium sulfate. The solvent was concentrated under reduced pressure to give 2-amino-5-(3-hydroxypyridin-2-ylthio)thiazole (1.15 g, yield: 68.9%). mp: 128°-130° C.

reactant | 2-acetylamino-5-(3-hydroxypyridin-2-ylthio)thiazole | 2 g | C(C)(=O)NC=1SC(=CN1)SC1=NC=CC=C1O | C10H9N3O2S2
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 13 ml | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-amino-5-(3-hydroxypyridin-2-ylthio)thiazole | 1.15 g, yield: 68.9% | NC=1SC(=CN1)SC1=NC=CC=C1O | C8H7N3OS2
